US07851473B2
(1) 1-[3-(3-Furyl)-1,2,4-thiadiazol-5-yl]piperazine
tert-Butyl 4-[3-(3-furyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxylate (3.30 g, 9.81 mmol) was dissolved in ethyl acetate (50 ml), and a solution of 4 N hydrogen chloride in ethyl acetate (25 ml) was added thereto, followed by stirring at room temperature for 18 hours. Hexane (120 ml) was poured to the reaction mixture, and a solid was separated by filtration. The obtained solid was dissolved in an aqueous saturated sodium hydrogen carbonate solution, followed by stirring at room temperature for 2 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with a mixed solution of ethyl acetate/tetrahydrofuran (1:1). The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Hexane was added to the residue, and 1.30 g (56.0%) of the desired product as a solid was separated by filtration.

reactant | tert-Butyl 4-[3-(3-furyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxylate | 9.81 mmol, 3.30 g | O1C=C(C=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H20N4O3S
reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | Hexane | 120 ml | CCCCCC | C6H14
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 1-[3-(3-Furyl)-1,2,4-thiadiazol-5-yl]piperazine | O1C=C(C=C1)C1=NSC(=N1)N1CCNCC1 | C10H12N4OS
